US07358271B2
Preparation of 5-Acetylsulfamoyl-N-(1-ethyl-pyrrolidin-2-ylmethyl)-2-methoxy-benzamide
A solution of N-(1-Ethyl-pyrrolidin-2-ylmethyl)-2-methoxy-5-sulfamoyl-benzamide, acetic anhydride and triethylamine are reacted at room temperature, diluted with water and extracted with ethyl acetate. The ethyl acetate layer is dried, filtered and concentrated under vacuum, and the residue recrystallized from ethyl acetate.

reactant | N-(1-Ethyl-pyrrolidin-2-ylmethyl)-2-methoxy-5-sulfamoyl-benzamide | C(C)N1C(CCC1)CNC(C1=C(C=CC(=C1)S(N)(=O)=O)OC)=O | C15H23N3O4S
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
product | 5-Acetylsulfamoyl-N-(1-ethyl-pyrrolidin-2-ylmethyl)-2-methoxy-benzamide | C(C)(=O)NS(=O)(=O)C=1C=CC(=C(C(=O)NCC2N(CCC2)CC)C1)OC | C17H25N3O5S
